US08168667B2
1-(3,4-dichlorophenyl)-4-(4-hydroxyphenyl)-3-(2-propenyl)imidazolidine-2,5-dione
1.1 equivalent of 3,4-dichlorophenyl isocyanate is added to a solution of 3.5 g of methyl 2-(4-hydroxyphenyl)-2-(2-propenyl)aminoacetate in 50 mL of anhydrous THF in a 50 mL flask equipped with a magnetic stirrer, under nitrogen. After heating under reflux for 4 hours, the product is concentrated then crystallised in isopropyl ether. The solid is filtered and washed with isopropyl ether to yield 3.2 g of white powder (Yd=54%).

reactant | 3,4-dichlorophenyl isocyanate | 1.1 equivalent | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | methyl 2-(4-hydroxyphenyl)-2-(2-propenyl)aminoacetate | 3.5 g | OC1=CC=C(C=C1)C(C(=O)OC)NCC=C | C12H15NO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(3,4-dichlorophenyl)-4-(4-hydroxyphenyl)-3-(2-propenyl)imidazolidine-2,5-dione | 3.2 g, 54% | ClC=1C=C(C=CC1Cl)N1C(N(C(C1=O)C1=CC=C(C=C1)O)CC=C)=O | C18H14Cl2N2O3
